US08217065B2
G. 4-[5-(3-Chlorophenylamino)-[1,3,4]oxadiazol-2-yl]-benzene-1,2-diamine
A suspension of [5-(4-amino-3-nitrophenyl)-[1,3,4]oxadiazol-2-yl]-(3-chlorophenyl)-amine (245 mg, 0.74 mmol) and PtO2 (50 mg) in MeOH (30 mL) was hydrogenated at one atm for 4 h. The catalyst was filtered over Celite and the filtrate was evaporated under reduced pressure to give the title compound. This was used directly in the next reaction.

reactant | [5-(4-amino-3-nitrophenyl)-[1,3,4]oxadiazol-2-yl]-(3-chlorophenyl)-amine | 0.74 mmol, 245 mg | NC1=C(C=C(C=C1)C1=NN=C(O1)NC1=CC(=CC=C1)Cl)[N+](=O)[O-] | C14H10ClN5O3
solvent | MeOH | 30 mL | CO | CH4O
catalyst | PtO2 | 50 mg | O=[Pt]=O
product | 4-[5-(3-Chlorophenylamino)-[1,3,4]oxadiazol-2-yl]-benzene-1,2-diamine | ClC=1C=C(C=CC1)NC1=NN=C(O1)C=1C=C(C(=CC1)N)N | C14H12ClN5O
